US05328910
A mixture of 2-methyl-4-methylamino-7-phenyl-7H-pyrrolo-[2,3-d] pyrimidine (0.5g, 2.1mM) and dioxan (15ml) was heated under reflux for 18 hours. The mixture was cooled and then the solvent was removed by evaporation. The residue was purified by flash chromatography on ICN neutral alumina (32-63) using methylene chloride which contained an increasing amount of methanol (up to a maximum of 5%) as eluant to give a solid. This solid was recrystallised from hexane to give 2,3-dimethyl-4-methylimino-7-phenyl-3H,7H-pyrrolo[2,3-d] pyrimidine as a white solid (126mg), m p. 160-161° C; microanalysis, found: C, 71 2; H,5 9; N,22.0%; C14H14N4 requires C,71.4; H, 6.3; N, 22.2%; NMR: 2.48(3H,s,C-CH3), 3.48 (3H,s,N-CH3), 3.56(3H,s,N-CH3), 6.90(1H,d,CH), 6.97(1H,d,CH), 7.34(1H, complex, aromatic), 7.47(2H, complex, aromatic), 7.60(1H, complex, aromatic).

reactant | 2-methyl-4-methylamino-7-phenyl-7H-pyrrolo-[2,3-d] pyrimidine | 2.1mM, 0.5g | CC=1N=C(C2=C(N1)N(C=C2)C2=CC=CC=C2)NC | C14H14N4
reactant | dioxan | 15ml | O1CCOCC1 | C4H8O2
product | 2,3-dimethyl-4-methylimino-7-phenyl-3H,7H-pyrrolo[2,3-d] pyrimidine | 126mg | CC=1N(C(C2=C(N1)N(C=C2)C2=CC=CC=C2)=NC)C | C15H16N4
